US09126970B2
Step a): 7-Bromo-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene
66.5 g (234.6 mmol) of 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene are initially introduced in 1000 ml of acetonitrile. A solution of 41.7 g (234.6 mmol) of NBS in 500 ml of CH3CN is subsequently added dropwise at −15° C. with exclusion of light, allowed to come to RT and stirred at this temperature for a further 4 h. 150 ml of water are subsequently added to the mixture, which is then extracted with CH2Cl2. The organic phase is dried over MgSO4, and the solvents are removed in vacuo. The product is washed by stirring with hot hexane and filtered off with suction. Yield: 47.5 g (131 mmol), 55.9% of theory, purity according to 1H-NMR approx. 97%.

reactant | 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene | 234.6 mmol, 66.5 g | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=CC=C3C1C2)C | C21H17N
reactant | NBS | 234.6 mmol, 41.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 150 ml | O | H2O
solvent | acetonitrile | 1000 ml | C(C)#N | C2H3N
solvent | CH3CN | 500 ml | CC#N | C2H3N
product | 7-Bromo-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene | BrC=1C=C2C=3C=C4C(=CC3NC2=CC1)C(C1=CC=CC=C14)(C)C | C21H16BrN
